US05401711
Preparation of 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pentynyl)benzoate (Compound No. 52)
In a 100 ml flask equipped with a thermometer, a cooling tube and a nitrogensintroducing tube, there were charged 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-trifluoromethylsulfonyloxybenzoate (4.72 g, 9.0 mmol), bis(triphenylphosphine)palladium dichloride (300 mg, 0.4 mmol), DMF (30 ml) and triethylamine (5 ml), and the resultant mixture was stirred at room temperature for 1 hour under nitrogen stream. Thereafter, 1-pentyne (2.0 g, 29.40 mmol) was added to the resultant mixture, and the mixture was reacted at 80°-90° C. for 3 hours. After cooling, the mixture was poured into an ice water, and was extracted with ethyl acetate. The organic layer thus obtained was washed with water and a saturated salt water, dried with anhydrous sodium sulfate and concentrated. The residue thus obtained was then purified by silica gel column chromatography to obtain 2.50 g (yield: 62.8%) of the aimed product (red-brown transparent viscous liquid).

reactant | 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-trifluoromethylsulfonyloxybenzoate | 9.0 mmol, 4.72 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCC[Si](C)(C)C)C(=CC=C1)OS(=O)(=O)C(F)(F)F | C19H23F3N2O8SSi
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | 1-pentyne | 29.40 mmol, 2.0 g | C#CCCC | C5H8
catalyst | bis(triphenylphosphine)palladium dichloride | 0.4 mmol, 300 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pentynyl)benzoate | 2.50 g, yield: 62.8% | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCC[Si](C)(C)C)C(=CC=C1)C#CCCC | C23H30N2O5Si
